US04070366
2-Carbethoxy-3-i-butyl-4-methyl-5-ethylpyrrole
The crude product, obtained in Example 68 but using 2-carbethoxy-4-methyl-5-ethylpyrrole and isobutyraldehyde, solidified at 0° C. after distillation (70° C. 1 × 10-4 mm). It was recrystallized twice from methanol, m.p. 53°-55° C. (12%).

reactant | 2-carbethoxy-4-methyl-5-ethylpyrrole | C(=O)(OCC)C=1NC(=C(C1)C)CC | C10H15NO2
reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
product | 2-Carbethoxy-3-i-butyl-4-methyl-5-ethylpyrrole | C(=O)(OCC)C=1NC(=C(C1CC(C)C)C)CC | C14H23NO2
